US03998879
Reaction of equimolar amounts of 5,5-dimethylcyclohexane-1,3-dione with p-chlorobenzenesulfonylisocyanate in benzene according to the procedure of Example 1 affords 2-(N-p-CHLOROBENZENESULFONYLCARBAMOYL)-5,5-DIMETHYLCYCLOHEXANE-1,3-DIONE, m.p. 103°-105.5° C. (corr.).

reactant | 5,5-dimethylcyclohexane-1,3-dione | CC1(CC(CC(C1)=O)=O)C | C8H12O2
reactant | p-chlorobenzenesulfonylisocyanate | ClC1=CC=C(C=C1)S(=O)(=O)N=C=O | C7H4ClNO3S
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-(N-p-CHLOROBENZENESULFONYLCARBAMOYL)-5,5-DIMETHYLCYCLOHEXANE-1,3-DIONE | ClC1=CC=C(C=C1)S(=O)(=O)NC(=O)C1C(CC(CC1=O)(C)C)=O | C15H16ClNO5S
